US07528147B2
But using 0.2 g of 4-chloro-2-{5,6-dimethoxy-1-[2-(4-methylpiperazin-1-yl)ethyl]-1H-indol-3-yl}-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 0.65 g of potassium hydroxide in 7 ml of methanol. After flash chromatography on a silica column [eluent: dichloromethane/methanol (80/20 by volume)], 0.05 g of 4-chloro-2-{5,6-dimethoxy-1-[2-(4-methylpiperazin-1-yl)ethyl]-1H-indol-3-yl}-1H-pyrrolo[2,3-b]pyridine is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 4-chloro-2-{5,6-dimethoxy-1-[2-(4-methylpiperazin-1-yl)ethyl]-1H-indol-3-yl}-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.2 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCN(CC2)C)S(=O)(=O)C2=CC=C(C=C2)C | C31H34ClN5O4S
reactant | potassium hydroxide | 0.65 g | [OH-].[K+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | 7 ml | CO | CH4O
product | 4-chloro-2-{5,6-dimethoxy-1-[2-(4-methylpiperazin-1-yl)ethyl]-1H-indol-3-yl}-1H-pyrrolo[2,3-b]pyridine | 0.05 g | ClC1=C2C(=NC=C1)NC(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCN(CC2)C | C24H28ClN5O2
